US06943159B1
2-Methyl-3,4-dihydro-1,3-benzoxazine-4-one
2-Hydroxybenzamide was transformed by Method G (using paraldehyde). M.p. 124-126° C.

reactant | 2-Hydroxybenzamide | OC1=C(C(=O)N)C=CC=C1 | C7H7NO2
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
product | 2-Methyl-3,4-dihydro-1,3-benzoxazine-4-one | CC1OC2=C(C(N1)=O)C=CC=C2 | C9H9NO2
